US05539091
(a) Preparation of N-heptylglucosylamine
A solution of heptylamine (11.5 g in 50 ml of ethanol) was added to a solution containing 9 g of glucose and 35 ml of water. The reaction mixture was stirred for about 24 hours at ambient temperature. The precipitate formed was filtered and recrystallized from ethanol, then lyophilized.

reactant | heptylamine | 50 ml, 11.5 g | C(CCCCCC)N | C7H17N
reactant | glucose | 9 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | water | 35 ml | O | H2O
product | N-heptylglucosylamine | C(CCCCCC)NC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C13H27NO5
